US07662972B2
N-[4-[5-(3,5-Dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methyl benzoylaminomethyl]carbamic acid methyl ester (Compound of the Present Invention No. 5-515)
In a suspended solution of 0.13 g of N-aminomethyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methyl benzoic acid amide hydrochloride synthesized in Synthetic Example 32 in 4 ml of dichloromethane, 0.03 g of methyl chloroformate and 0.08 g of triethyl amine were added with stirring at room temperature, and stirred at room temperature for 3 hours. After the completion of the reaction, the solvent was distilled under reduced pressure, the residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (1:1) to obtain 0.06 g of the aimed product as colorless resinous substance.

reactant | N-aminomethyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methyl benzoic acid amide hydrochloride | 0.13 g | Cl.NCNC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O
reactant | methyl chloroformate | 0.03 g | ClC(=O)OC | C2H3ClO2
reactant | triethyl amine | 0.08 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-[4-[5-(3,5-Dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methyl benzoylaminomethyl]carbamic acid methyl ester | 0.06 g | COC(NCNC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)=O | C21H18Cl2F3N3O4
